resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.014218
R2 0 n2 1.002401
R3 0 n4 0.989019
R4 n1 n3 1.004167
R5 n1 n5 1.009744
R6 n2 n3 0.991599
R7 n2 n6 0.993966
R8 n3 n7 1.004242
R9 n4 n5 0.980866
R10 n4 n6 1.012409
R11 n5 n7 0.986405
R12 n6 n7 39.578391
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
